US05025025
Hex-5-enoic acid is first converted to the corresponding epoxide with e.g. m-chloroperbenzoic acid and esterified with diazomethane to the methyl ester which is then condensed with acetonitrile in the presence of lithium diisopropylamide (LDA) to yield methyl 7-cyano-5-hydroxyheptanoate. Alternatively, 5-oxohexanoic acid is condensed with bromoacetonitrile in the presence of e.g. the potassium salt of hexamethyl disilazane, followed by esterification with e.g. diazomethane and reduction with sodium borohydride to yield methyl 7-cyano-5-hydroxyheptanoate. Condensation with 3-hydroxypyridine in the presence of triphenylphosphine and reduction of the nitrile yields methyl 8-amino-5-(3-pyridyloxy)-octanoate.

reactant | 5-oxohexanoic acid | O=C(CCCC(=O)O)C | C6H10O3
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
reactant | potassium | [K] | K
reactant | hexamethyl disilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | sodium borohydride | [BH4-].[Na+]
product | methyl 7-cyano-5-hydroxyheptanoate | C(#N)CCC(CCCC(=O)OC)O | C9H15NO3
